* Simple RC Filter
r1 n1 n0 10k
c1 n1 0 1nF
Vin n0 0 ac 1v pulse (0 5v 1s 1s 1s 5s 12s)

.ac DEC 10 1 1E5
.tran 1s 10s
.print tran v(n1)
.print ac v(n1) db(v(n1))
.end
